US04316839
32.2 g (0.124 mol) of ethyl (1,3,4,5-tetrahydro-4-methyl-5-oxo-2H-1,4-benzodiazepin-2-ylidene)acetate are dissolved in 300 ml of acetic acid and treated at room temperature with 12.8 g (0.186 mol) of sodium nitrate. The mixture is stirred at room temperature for a further 10 minutes, then poured into 1 liter of water and extracted three times with 200 ml of chloroform each time. The combined chloroform phases are washed with 100 ml of water, dried over magnesium sulphate and evaporated. The residue is recrystallised from ethyl acetate. There is obtained ethyl 4,5-dihydro-4-methyl-5-oxo-3H-1,4-benzodiazepine-2-glyoxylate α-oxime of melting point 173°-174° C.

reactant | ethyl (1,3,4,5-tetrahydro-4-methyl-5-oxo-2H-1,4-benzodiazepin-2-ylidene)acetate | 0.124 mol, 32.2 g | CN1CC(NC2=C(C1=O)C=CC=C2)=CC(=O)OCC | C14H16N2O3
reactant | sodium nitrate | 0.186 mol, 12.8 g | [N+](=O)([O-])[O-].[Na+]
reactant | water | 1 liter | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | ethyl 4,5-dihydro-4-methyl-5-oxo-3H-1,4-benzodiazepine-2-glyoxylate α-oxime | CN1CC(=NC2=C(C1=O)C=CC=C2)C(C(OCC)=NO)=O | C14H15N3O4
